US05319144
To optimize the yield, a series of reactions were carried out under the same reaction conditions except that the water content in ethanol was increased. In this reaction 0.2 mole of 2,6-di-t-butylphenol was reacted with the sulfur under the conditions described above. The HPLC analysis of the distribution of the mono-, di-, tri-, and tetra-thiobisphenol in the crude products is shown in Table 1. Unexpectedly, it was discovered that the product favored the monothiobisphenol as the water content was increased in the system. Using 50% aqueous alcohol as solvent, the reaction almost exclusively, gave monothiobisphenol. The reaction yield dropped when the aqueous ethanol exceeded 50%. This is apparently because the solubility of 2,6-di-t-butylphenol becomes bias in the solvent with high water content.

reactant | water | O | H2O
reactant | 2,6-di-t-butylphenol | 0.2 mole | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | sulfur | [S] | S
reactant | tetra-thiobisphenol | C1(=C(C=CC=C1)SSSSC1=C(C=CC=C1)O)O | C12H10O2S4
solvent | ethanol | C(C)O | C2H6O
product | monothiobisphenol | C1(=C(C=CC=C1)SC1=C(C=CC=C1)O)O | C12H10O2S
